US04161407
Vinylbenzyl 2-Hydroxyethyl Sulfide
To a solution of 408 g (6 moles) of sodium ethoxide in 3 l of absolute ethanol, cooled to 0° to 5° C., was added dropwise 476 g (6.1 moles) of 2-mercaptoethanol. Following addition, the solution was stirred for an additional hour at room temperature and then 915 g (6.0 moles) of vinylbenzyl chloride (60 percent m, 40 percent p) was added dropwise. After addition, the mixture was refluxed for 1 hour and was then cooled to room temperature. The sodium chloride was removed by filtration and the solvent was removed on a rotary evaporator to give the product as a yellow oil. The oil was distilled via a short path column to give 626.5 g (54 percent) of the desired product (b.p. 110° to 120° C. and 7 microns Hg).

reactant | sodium ethoxide | 6 moles, 408 g | [O-]CC.[Na+]
reactant | 2-mercaptoethanol | 6.1 moles, 476 g | SCCO | C2H6OS
reactant | vinylbenzyl chloride | 6.0 moles, 915 g | C(=C)C(C1=CC=CC=C1)Cl | C9H9Cl
solvent | ethanol | 3 l | C(C)O | C2H6O
product | Vinylbenzyl 2-Hydroxyethyl Sulfide | OCCSC(C1=CC=CC=C1)C=C | C11H14OS
